### PR TITLE
[Merged by Bors] - fix: avoid sorryAx in library_search

### LINKED ISSUE #226: LibrarySearch finds proof with sorryAx
Example:

```
def Bool_eq_iff
  {A B: Bool}
  : (A = B) = (A ↔ B)
  := by (cases A <;> cases B <;> simp)

def Bool_eq_iff2
  {A B: Bool}
  : (A = B) = (A ↔ B)
  := by library_search -- 𝔗𝔯𝔶 𝔱𝔥𝔦𝔰: exact sorryAx ((A = B) = (A = true ↔ B = true)) 
```

I would expect it to find the theorem `Bool_eq_iff` that solves the goal without `sorry`.

A simple fix is to add the following line to `isBlackListed`:

```
  if declName matches Name.str _ "sorryAx" _ then return true
```

### PR DESCRIPTION
**Pull request by dwrensha**
Fixes #226, which is still reproducible. #239 was intended to fix it, but apparently plugged in the wrong bool value.

Adds a new `assert_no_sorry` command and uses it in a new testcase.

Also fixes up the "inj" and "noConfusionType" cases, which have the same bug.

### CODE REVIEW

**Comment by dwrensha** [comment]
@gebner should the other two `return false` expressions in that function also be changed to `return true`?
https://github.com/leanprover-community/mathlib4/blob/065e9956724008d1059577700fd676eaf25f35d5/Mathlib/Tactic/LibrarySearch.lean#L35-L36

File: test/librarySearch.lean [hunk 1]
```diff
@@ -102,3 +102,12 @@ by library_search using P, Q -- exact P ∩ Q
 
 example (n : ℕ) (r : ℚ) : ℚ :=
 by library_search using n, r -- exact nsmulRec n r
+
+-- Check that we don't use sorryAx:
+-- (see https://github.com/leanprover-community/mathlib4/issues/226)
+
+theorem Bool_eq_iff {A B: Bool} : (A = B) = (A ↔ B)
+  := by (cases A <;> cases B <;> simp)
```
Comment (gebner) [inline test/librarySearch.lean:110]:
```suggestion
theorem Bool_eq_iff {A B: Bool} : (A = B) = (A ↔ B) := by
  cases A <;> cases B <;> simp
```

File: test/librarySearch.lean [hunk 2]
```diff
@@ -102,3 +102,12 @@ by library_search using P, Q -- exact P ∩ Q
...
+
+theorem Bool_eq_iff2 {A B: Bool} : (A = B) = (A ↔ B)
+  := by library_search -- exact Bool_eq_iff
```
Comment (gebner) [inline test/librarySearch.lean:113]:
```suggestion
theorem Bool_eq_iff2 {A B: Bool} : (A = B) = (A ↔ B) := by
  library_search -- exact Bool_eq_iff
```

File: test/librarySearch.lean [hunk 3]
```diff
@@ -102,3 +102,12 @@ by library_search using P, Q -- exact P ∩ Q
 
 example (n : ℕ) (r : ℚ) : ℚ :=
 by library_search using n, r -- exact nsmulRec n r
+
+-- Check that we don't use sorryAx:
```
Comment (gebner) [inline test/librarySearch.lean:106]: I'm pretty sure that the test would still pass if we got `sorryAx`.

**Comment by gebner** [comment]
> should the other two return false expressions in that function also be changed to return true?

My intuition is yes.

File: test/librarySearch.lean (hunk 3 above)
Comment (dwrensha) [reply test/librarySearch.lean:106]: Correct, the test will still pass. My hope was that the comment with the expected output would at least help someone notice the problem.
Do you know of a way to assert that a theorem does not use `sorry`?

Comment (gebner) [reply test/librarySearch.lean:106]: This is the best I can think of quickly:
```lean
import Lean
open Lean Meta

def foo : Nat := 42

#eval show MetaM Unit from do
  guard <| !(← getConstInfoDefn ``foo).value.hasSorry
```

Comment (dwrensha) [reply test/librarySearch.lean:106]: I added a new `assert_no_sorry` command. I tried `getConstInfoDef` as you suggested, but it failed to reliably find all sorries (I think some misdirection through a `proof_1` constant was confusing it). So I instead used `Lean.Elab.Command.CollectAxioms.collect`, which is the same machinery that `#print axioms` uses.

File: Mathlib/Util/AssertNoSorry.lean [hunk 4]
```diff
@@ -0,0 +1,21 @@
...
+/-!
+# Defines `assert_no_sorry` command.
+
+Throws an error if the given identifier uses sorryAx.
+-/
+
+/-- Throws an error if the given identifier uses sorryAx. -/
+elab "assert_no_sorry " n:ident : command => do
+  let env ← Lean.getEnv
+  let (_, s) := ((Lean.Elab.Command.CollectAxioms.collect n.getId).run env).run {}
```
Comment (gebner) [inline Mathlib/Util/AssertNoSorry.lean:19]:
```suggestion
  let (_, s) := ((Lean.Elab.Command.CollectAxioms.collect (← resolveGlobalConstNoOverloadWithInfo n)).run env).run {}
```

**Review by gebner — COMMENTED** [review]
bors d+
